US04468394
A mixture of 6,7-diacetoxy-4-oxo-4H-1-benzothiopyran-3-carboxylic acid (50 mg), thionyl chloride (40 μL), and dimethylformamide (one drop) was heated under reflux for 2 hours in benzene (20 mL), and then the solvent was distilled off. To the residue was added benzene (20 mL). Benzene was evaporated again and the residue was vacuum dried to give 6,7-diacetoxy-4-oxo-4H-1-benzothiopyran-3-carbonyl chloride.

reactant | 6,7-diacetoxy-4-oxo-4H-1-benzothiopyran-3-carboxylic acid | 50 mg | C(C)(=O)OC=1C(=CC2=C(C(C(=CS2)C(=O)O)=O)C1)OC(C)=O | C14H10O7S
reactant | thionyl chloride | 40 μL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 6,7-diacetoxy-4-oxo-4H-1-benzothiopyran-3-carbonyl chloride | C(C)(=O)OC=1C(=CC2=C(C(C(=CS2)C(=O)Cl)=O)C1)OC(C)=O | C14H9ClO6S
